US07250410B2
2-(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)acetamide, IIcw.
Stir at 0° C. under an inert atmosphere for 48 hours, 70 mg (0.17 mmol) of ethyl (1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)acetate (IIbv) and 1.5 ml of methanol at 35% molar saturation with NH3. Evaporate to dryness. Purify by silica chromatography (dichloromethane 9/methanol 1). Recrystallize in ether. One obtains 12 mg of the abovenamed product as a white powder. Yield: 17%. M: 105–107° C. 1H-NMR (CDCl3, 300 MHz): d 1.10 (t, 3H, CH3), 3.02–3.09 (m, 1H —CH2), 3.22–3.29 (m, 1H —CH2), 3.75 (s, 1H, OCH3), 3.98 (s, 1H, OCH3), 4.01 (AB system, ? d=0.67, JAB=13.9, 2H, —NCH2), 4.13 (t, 1H, CH), 5.52 (s, 1H exchangeable NH2), 6.43 (s, 1H exchangeable NH2), 6.67 (s, 1H Ar), 6.85 (s, 1H Ar), 7.38–7.47 (m, 3H Ar), 7.59–7.62 (m, 2H Ar).

reactant | ethyl (1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)acetate | 0.17 mmol, 70 mg | C(C)N1C(C(N=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)CC(=O)OCC)=O | C23H26N2O5
reactant | NH3 | N | H3N
solvent | methanol | 1.5 ml | CO | CH4O
product | 2-(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)acetamide | 12 mg, Yield: 17% | C(C)N1C(C(N=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)CC(=O)N)=O | C21H23N3O4
